Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, dizziness, neck pain, left facial weakness 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
HPI: The patient is a ___ F w/ PMH HTN, Multiple Thyroid nodules, 
headache, back pain. Patient is a vague historian. History per 
patient with son translating, and per son.

 Starting 3 day ago, she began having more than her normal 
amount of back pain, and dizziness described as spinning 
sensation. Then yesterday, started having a feeling that someone 
is pushing her, which can be in any direction. Yesterday at 
night, all of sudden the symptoms all became worse. She was 
making a cake for her son, when around 9pm last night noticed 
some mild R neck pain, she stopped what she was doing because of 
the pain and went to sleep.

 She woke up at 2am, with severe R sided tearing neck pain, she 
wasn't able to get up from bed, because of the severity of the 
neck pain. No recent neck trauma, massages, chiropractor, car 
accidents. She thought it might be a pillow problem and changed 
pillow without any change in the pain.

 Has not had neck pain like this before. Has had back issues and 
neck pain, but not this intense before. Pain is constant since 
yesterday, has not subsided. No spinning sensation during the 
neck pain, she is not sure if the symptoms worsened after the 
onset of the neck pain. The spinning sensation she has is worse 
during the morning and night, it not present much during day 
time. When the spinning occurs, she is not able to walk. No 
falls. No double vision. No weakness, numbness. Sudden head 
movements do not make it worse. Spinning lasts for half an hour 
each time it occurs. She is not able to state any specific 
triggers. She is unsure of how many episodes she has had of this 
each day. Reports nausea when she has the spinning, and feels 
sleepy. Her son notes L face seemed droopy starting this 
morning. Reports L facial droop was worse in morning but seemed 
better now. Her son states that she has had the spinning 
sensation in the past, which was somewhat similar except without 
neck pain. She does not have normally have any dizziness. She 
denies having headache today, more neck pain.

 She presented to ___ for eval, per CHA records, "On physical 
exam, patient had left lower facial weakness, which spare the 
forehead, which was a complete surprise to patient, and 
patient's son." On re-examination by the ED physician on the 
next shift "there is still some left-sided facial droop, but 
there is some movement and tone as well.  What I am seeing is 
likely decreased in severity from description to me by [previous 
examiner]" In the ED here, ED resident noted R sided facial 
droop, did not note any L sided facial droop. They consulted 
with neurology by phone who recommended transfer for MRI. BMP, 
CBC done at ___ and were wnl.

 She is on amitriptyline for HA, rx by PCP. Previously per PCP 
note from ___, she had HA ___ sometimes a/w blurry 
vision, photophobia, no nausea, vomiting.

 Of note, patient and son were planning on going to ___ 
for several months, their flight is at noon tomorrow (___) On 
neurologic review of systems, the patient denies 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies bowel or bladder incontinence 
or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies vomiting, diarrhea, constipation or 
abdominal pain.  No recent change in bowel or bladder habits.  
No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
Past Medical History:
-HTN
-Multiple Thyroid nodules, has seen endocrine in the past, most
recently last fall, but had cancelled next f/u apt
-Headache 
-Back pain
 
Social History:
___
Family History:
No known history of any CTD, stroke. 
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented ___, ___, ___.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. No ptosis. HIT
difficult to perform due to patient participation, but with
limited test, no clear saccade. ___ to R reproduced
symptom of dizziness but no nystagmus was seen. Negative to L.

V: Facial sensation intact to light touch.
VII: No asymmetry at rest. Does not activate the L side of face
when asked to smile. With repeated attempts and clarification,
does appear to briefly activate L side of face, unclear if there
was asymmetry. Otherwise does appear asymmetric. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Romberg positive. Takes small careful steps unassisted. 
 
Pertinent Results:
___ 04:40AM BLOOD WBC-7.0 RBC-4.19 Hgb-12.3 Hct-37.6 MCV-90 
MCH-29.4 MCHC-32.7 RDW-13.1 RDWSD-42.4 Plt ___
___ 07:16PM BLOOD Neuts-59.7 ___ Monos-9.1 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-5.17 AbsLymp-2.43 AbsMono-0.79 
AbsEos-0.20 AbsBaso-0.04
___ 04:40AM BLOOD ___ PTT-31.1 ___
___ 04:40AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-143 
K-4.0 Cl-105 HCO3-27 AnGap-11
___ 07:16PM BLOOD ALT-17 AST-21 AlkPhos-96 TotBili-0.4
___ 07:16PM BLOOD cTropnT-<0.01
___ 04:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.0 Cholest-147
___ 04:40AM BLOOD %HbA1c-5.8 eAG-120
___ 04:40AM BLOOD Triglyc-107 HDL-42 CHOL/HD-3.5 LDLcalc-84
___ 04:40AM BLOOD TSH-0.84
___ 07:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-11 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with PMHx of HTN, thyroid 
nodules, headache and back pain who was admitted to the stroke 
service to exclude an acute cerebrovascular event. She presented 
with several days of right-sided neck pain, headache, and 
dizziness -- but most concerning to her son was left sided 
facial droop, which was present on admission. Her symptoms 
responded to Tylenol, and a complete stroke workup (including 
CT, CTA, MRI) were negative for a vascular lesion or stroke. 

#Migraine with Complicated Features 
-History of throbbing headache consistent with a diagnosis of 
migraine. Per her son, this has been associated with neck pain 
and dizziness in the past. She has been prescribed a TCA by her 
PCP for prophylaxis, but she is non-compliant as the medication 
makes her dizzy. Her symptoms resolved with Tylenol this 
admission. Her imaging studies were negative (CT, CTA, MRI) for 
a central or vascular lesion that is contributing to her 
headache. Will recommend that her PCP consider ___ different 
prophylactic or abortive headache medication in the future.  

#Hypertension; chronic 
-Stable this admission; home medications continued.  

#Thyroid Nodules; chronic 
-CTA showing a right exophytic thyroid nodule that needs to be 
followed up on outpatient. 

==================================================
Transitional Issues 
-Primary care doctor needs to follow up on thyroid nodules 
-Primary care doctor can consider an alternative to 
amitriptyline as her son states that she is non-compliant as a 
result of dizziness side effect 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Amitriptyline 10 mg PO QHS 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Amitriptyline 10 mg PO QHS  
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervicalgia and Migraine with Complicated Features 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Ms. ___,
  
 You were hospitalized due to symptoms of neck pain and 
dizziness resulting from a headache. Your son told us that you 
have history of headaches, and the description is consistent 
with a diagnosis of migraine. Along with migraine head pain, 
some people get additional symptoms including sensory changes, 
dizziness, nausea, vomiting, and sensitivity to lights and 
sounds. Your neck pain was likely musculoskeletal (muscle spasm) 
in origin which may have triggered your headache. It is 
reassuring that your pain was relieved by Tylenol. 

We are not changing your medications. You can take Tylenol as 
needed for the pain.
Please take your other medications as prescribed.

Please follow up with your primary care doctor within one week 
for continuity of care. 
    
 In the future, if you experience any of the symptoms below, 
please seek emergency medical attention by calling Emergency 
Medical Services (dialing 911). In particular, since stroke can 
recur, please pay attention to the sudden onset and persistence 
of these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___